US05527967
The procedure of Example 7 is repeated, but using an electrolyte comprising 5.58 g (0.010 mol) of 2,2'-bis[(trimethylammonio)methyl]-1,1'-binaphthyl dibromide, 6.62 g (0.030 mol) of chlorodiphenylphosphine and 50 ml of dimethyl formamide (max. 0.1% of water) in the electrolysis. The amount of charge is 0.96 Ah. Workup gives 5.1 g of 2,2'-bis[(diphenylphosphino)methyl]-1,1'-binaphthyl ("naphos"). This corresponds to a yield of 78% based on 2,2'-bis[(trimethylammonio)methyl]-1,1'-binaphthyl dibromide used.

reactant | 2,2'-bis[(trimethylammonio)methyl]-1,1'-binaphthyl dibromide | 0.010 mol, 5.58 g | [Br-].[Br-].C[N+](C)(C)CC1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)C[N+](C)(C)C
reactant | chlorodiphenylphosphine | 0.030 mol, 6.62 g | ClP(C1=CC=CC=C1)C1=CC=CC=C1 | C12H10ClP
solvent | dimethyl formamide | 50 ml | CN(C=O)C | C3H7NO
product | 2,2'-bis[(diphenylphosphino)methyl]-1,1'-binaphthyl | 5.1 g, yield of 78% | C1(=CC=CC=C1)P(C1=CC=CC=C1)CC1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)CP(C1=CC=CC=C1)C1=CC=CC=C1 | C46H36P2
